US05998424
1-[(4-methoxy)phenyl]-3-(ethoxycarbonyl)pyrazole-5-carboxylic acid
To a solution 1-[(4-methoxy)phenyl]-3-(ethoxycarbonyl)-5-(methoxycarbonyl)pyrazole (4.0 g, 13.2 mmol) in 40 mL of tetrahydrofuran and 20 mL of water was added an aqueous solution of lithium hydroxide monohydrate (0.55 g, 13.2 mmol). The reaction was allowed to stir at ambient temperature for 1 h. The tetrahydrofuran was removed in vacuo and the aqueous was extracted with ether to remove unreacted diester. The aqueous layer was acidified with HCl and extracted with ethyl acetate. The organics were washed with brine, dried (MgSO4) and concentrated to afford 3.2 g (84%) of the title compound, which was used without further purification. LRMS (ES-): 289.0 (M-H)-.

reactant | 1-[(4-methoxy)phenyl]-3-(ethoxycarbonyl)-5-(methoxycarbonyl)pyrazole | 13.2 mmol, 4.0 g | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)OC)C(=O)OCC | C15H16N2O5
reactant | lithium hydroxide monohydrate | 13.2 mmol, 0.55 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 1-[(4-methoxy)phenyl]-3-(ethoxycarbonyl)pyrazole-5-carboxylic acid | 3.2 g, 84% | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)O)C(=O)OCC | C14H14N2O5
